US05023250
3β-benzoyloxy-15-trimethylsiloxy-5α-cholest-8,14-diene (1.93 g, 3.35 mmole) in THF (10 mL) and ethyl iodoacetate (0.79 mL, 6.7 mmole) was added at -10° C. to a mixture of benzyl trimethylammonium fluoride (850 mg, 5 mmole) in THF (15 mL). The mixture was stirred at -10° C. for 15 minutes and at ambient temperature for 30 minutes, diluted with hexane, filtered and the filtrate was concentrated. Using the workup described in Example 1(ii), 625 mg of 3β-benzoyloxy-14α-carbethoxymethyl-5α-cholest-8-en-15-one was obtained.

reactant | 3β-benzoyloxy-15-trimethylsiloxy-5α-cholest-8,14-diene | 3.35 mmole, 1.93 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@@H]2CCC=3C4=C(C[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C)O[Si](C)(C)C | C37H56O3Si
reactant | ethyl iodoacetate | 6.7 mmole, 0.79 mL | ICC(=O)OCC | C4H7IO2
reactant | benzyl trimethylammonium fluoride | 5 mmole, 850 mg | [F-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3β-benzoyloxy-14α-carbethoxymethyl-5α-cholest-8-en-15-one | 625 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@@H]2CCC=3[C@@]4(C(C[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C)=O)CC(=O)OCC | C38H54O5
